US07851470B2
A 10 mL reaction tube with a septum closure and stir bar was charged with N-benzyl-2-(5-bromopyridin-2-yl)acetamide (123 mg, 0.403 mmol), 4-(2-(4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-phenoxy)ethyl)morpholine (171 mg, 0.513 mmol), and FibreCat 10071 (30 mg, 0.015 mmol). Ethanol (3 mL) was added, followed by aqueous potassium carbonate solution (0.60 mL, 1.0 M, 0.60 mmol). The tube was sealed and heated under microwave conditions at 150° C. for 10 minutes. The reaction was cooled and concentrated to remove the majority of the ethanol, and then taken up in 10 mL of ethyl acetate and washed successively with water and saturated sodium chloride solution. The organic layer was dried with MgSO4, filtered and concentrated to a white solid. This white solid was triturated with ethyl ether to give KX2-391 as a white solid (137 mg, 79%): mp 135-137° C.; 1H NMR (300 MHz, CDCl3) δ 8.70 (d, 1H, J=2.0 Hz), 7.81 (dd, 1H, J=2.4 Hz, J=8.0 Hz), 7.65 (br s, 1H), 7.49 (d, 2H, J=8.8 Hz), 7.37-7.20 (m, 6H), 7.01 (d, 2H, J=8.8 Hz), 4.49 (d, 2H, J=5.8 Hz), 4.16 (t, 2H, J=5.7 Hz, 3.82 (s, 2H), 3.78-3.72 (m, 4H), 2.84 (t, 2H, J=5.7 Hz), 2.62-2.58 (m, 4H); HPLC (Method B) 98.0% (AUC), tR=1.834 min.; APCI MS m/z 432 [M+H]+. 1 Polymer bound di(acetato)dicyclohexylphenylphosphinepalladium(II), manufactured by Johnson Matthey, Inc. and available from Aldrich (catalog #590231).

reactant | N-benzyl-2-(5-bromopyridin-2-yl)acetamide | 0.403 mmol, 123 mg | C(C1=CC=CC=C1)NC(CC1=NC=C(C=C1)Br)=O | C14H13BrN2O
reactant | 4-(2-(4-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)-phenoxy)ethyl)morpholine | 0.513 mmol, 171 mg | CC1(OB(OC1(C)C)C1=CC=C(OCCN2CCOCC2)C=C1)C | C18H28BNO4
reactant | potassium carbonate | 0.60 mmol, 1.0 M, 0.60 mL | C([O-])([O-])=O.[K+].[K+]
solvent | Ethanol | 3 mL | C(C)O | C2H6O
product | KX2-391 | 137 mg, 79% | C=1C=CC(=CC1)CNC(=O)CC=2C=CC(=CN2)C=3C=CC(=CC3)OCCN4CCOCC4 | C26H29N3O3
